US06596772B1
{2-[(3-Trifluoromethanesulfonyl-phenylcarbamoyl)-methyl)-phenyl}-acetic acid (27).
Oxalyl chloride (0.285 mL) was added to a solution of 1,2-phenylenediacetic acid (100 mg, 0.515 mmol) in dichloromethane, followed by 5 drops of DMF. The mixture was stirred at room temperature for 1.5 hours and cooled to 0° C. To the cooled mixture was added DMAP (63 mg, 0.62 mmol) and 3-aminophenyl trifluoromethyl sulfone (116 mg, 0.515 mmol). The mixture was allowed to warm to room temperature and extracted with ethyl acetate. The organic layer was washed with water, brine, dried and purified to give the title compound. 1H NMR (300 MHz, DMSO-d6) δ 11.31 (br s, 1H), 8.51 (s, 1H), 8.04 (m, 1H), 7.75 (d, J=5.1 Hz, 2H), 7.28 (m, 1H), 7.19 (m, 3H), 3.75 (s, 2H, CH2), 3.62 (s, 2H, CH2). MS 401.9 [M++1].

reactant | Oxalyl chloride | 0.285 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1,2-phenylenediacetic acid | 0.515 mmol, 100 mg | C1(=C(C=CC=C1)CC(=O)O)CC(=O)O | C10H10O4
reactant | 3-aminophenyl trifluoromethyl sulfone | 0.515 mmol, 116 mg | FC(F)(F)S(=O)(=O)C1=CC(=CC=C1)N | C7H6F3NO2S
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | DMF | 5 drops | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.62 mmol, 63 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | {2-[(3-Trifluoromethanesulfonyl-phenylcarbamoyl)-methyl)-phenyl}-acetic acid | FC(S(=O)(=O)C=1C=C(C=CC1)NC(=O)CC1=C(C=CC=C1)CC(=O)O)(F)F | C17H14F3NO5S
